US05569768
Sodium hydride (0.54 mmoles, 22 mg of 60% in mineral oil) was added to 5-[2-(4,4-dimethyloxazolin-2-yl)phenyl]indole (0.43 mmoles, 125 mg) in 2 ml THF. After stirring 20 minutes, the solution was cooled to 0° C. Ethyl 2-bromooctanoate (0.54 mmoles, 0.135 mg) was added. The solution was stirred for 15 minutes, allowed to warm to room temperature, and stirred for 1.5 hours. The solution was poured into saturated ammonium chloride and extracted with ethyl acetate. The organic phase was dried and concentrated. The oil was chromatographed over silica gel eluted with 20 % ether in hexane. The reaction yielded 172 mg of ethyl 2-[5-[2-(4,4-dimethyloxazolin-2-yl)phenyl]indol-1-yl]octanoate. (MS)

reactant | Sodium hydride | 0.54 mmoles, 22 mg | [H-].[Na+]
reactant | 5-[2-(4,4-dimethyloxazolin-2-yl)phenyl]indole | 0.43 mmoles, 125 mg | CC1(N=C(OC1)C1=C(C=CC=C1)C=1C=C2C=CNC2=CC1)C | C19H18N2O
reactant | Ethyl 2-bromooctanoate | 0.54 mmoles, 0.135 mg | BrC(C(=O)OCC)CCCCCC | C10H19BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | ethyl 2-[5-[2-(4,4-dimethyloxazolin-2-yl)phenyl]indol-1-yl]octanoate | 172 mg | CC1(N=C(OC1)C1=C(C=CC=C1)C=1C=C2C=CN(C2=CC1)C(C(=O)OCC)CCCCCC)C | C29H36N2O3
